US06358978B1
Ammonium 3-nitrophthalamidate (1a)
100 g (518 mmol) of 3-nitrophthalic anhydride were introduced at RT and treated rapidly with 170 ml of concentrated ammonium hydroxide solution with stirring. The mixture was stirred at RT for 1 h. The precipitate was filtered off and dried in a desiccator. Yield: 95.6 g (88%).

reactant | 3-nitrophthalic anhydride | 518 mmol, 100 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | ammonium hydroxide | 170 ml | [OH-].[NH4+]
product | Ammonium 3-nitrophthalamidate | [N+](=O)([O-])C1=C(C(C(=O)N)=CC=C1)C(=O)[O-].[NH4+] | InChI=1S/C8H6N2O5.H3N/c9-7(11)4-2-1-3-5(10(14)15)6(4)8(12)13;/h1-3H,(H2,9,11)(H,12,13);1H3
